US07723330B2
Step F: Preparation of 2-(cyclopropylmethylamino)-5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one:
To a 15 mL capacity reaction tube were added 1-(4-methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine (20 mg, 0.07 mmol; prepared according to the procedure of Example 43, Step E) and 2-(cyclopropylmethylamino)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one (22.1 mg, 0.077 mmol) and the solids were dissolved in DMF (1 mL) under nitrogen. Potassium carbonate (10.6 mg, 0.0765 mmol) was added, followed by KOtBu (0.077 mL, 0.077 mmol, 1M solution in THF). The reaction tube was sealed and the reaction mixture was stirred at 110° C. for 1 hour. The reaction mixture was partitioned between water (5 mL) and ethyl acetate (10 mL). The organic layer was separated and the aqueous layer was extracted with a second portion of ethyl acetate. The combined organic layers were washed with saturated aqueous NaCl, dried over sodium sulfate and evaporated to afford 37.5 mg of a red semi-solid. The crude product was purified by silica gel chromatography (Biotage 12M) eluting with 2% MeOH/DCM to afford a red colored glass (23.8 mg, 63%). LRMS (APCI pos) m/e 541.3 (M+1).

reactant | 1-(4-methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine | COC1=CC=C(CN2N=C(C=3C2=NC=CC3Cl)C)C=C1 | C15H14ClN3O
reactant | 2-(cyclopropylmethylamino)-5-(3-fluoro-4-hydroxyphenyl)-3-methylpyrimidin-4(3H)-one | 0.077 mmol, 22.1 mg | C1(CC1)CNC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)O)F | C15H16FN3O2
reactant | Potassium carbonate | 0.0765 mmol, 10.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | KOtBu | 0.077 mmol, 1M, 0.077 mL | CC(C)(C)[O-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(cyclopropylmethylamino)-5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methylpyrimidin-4(3H)-one | 37.5 mg | C1(CC1)CNC1=NC=C(C(N1C)=O)C1=CC(=C(C=C1)OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)F | C30H29FN6O3
